US06462049B1
Synthesis of allyl 2-{3-(2,6-difluorophenyl)pyrazol-1-yl}-3-(5-chloro-1-methyl-3-trifluoromethylpyrazol-4-yl)-3-hydroxyacrylate (Compound No. I-133)
Potassium butoxide (0.5 g) was added to a THF (10 mL) solution of allyl 2-{3-(2,6-difluorophenyl)pyrazol-1-yl}acetate (0.5 g) and 5-chloro-1-methyl-3-trifluoromethylpyrazole-4-carbonyl chloride (0.44 g) at 0° C. and stirred for 5 minutes. Water (5 ml) was added thereto, and then extracted with diluted hydrochloric acid and ethyl acetate. After the organic layer was dried over anhydrous magnesium sulfate, and then concentrated, and the resulting concentrate was purified through silica gel column chromatography (chloroform) to obtain the intended product, Compound No. I-133 (0.89 g).

reactant | Potassium butoxide | 0.5 g | [O-]CCCC.[K+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | allyl 2-{3-(2,6-difluorophenyl)pyrazol-1-yl}acetate | 0.5 g | FC1=C(C(=CC=C1)F)C1=NN(C=C1)CC(=O)OCC=C | C14H12F2N2O2
reactant | 5-chloro-1-methyl-3-trifluoromethylpyrazole-4-carbonyl chloride | 0.44 g | ClC1=C(C(=NN1C)C(F)(F)F)C(=O)Cl | C6H3Cl2F3N2O
solvent | Water | 5 ml | O | H2O
product | allyl 2-{3-(2,6-difluorophenyl)pyrazol-1-yl}-3-(5-chloro-1-methyl-3-trifluoromethylpyrazol-4-yl)-3-hydroxyacrylate | FC1=C(C(=CC=C1)F)C1=NN(C=C1)C(C(=O)OCC=C)=C(O)C=1C(=NN(C1Cl)C)C(F)(F)F | C20H14ClF5N4O3
